US04783485
After stirring for an additional half hour and adding 50 ml of petroleum ether (40-60) the formed precipitate was sucked off, washed with petroleum ether and dried. The desired product was obtained in a yield of 2.0 g; melting-point 169°-170° C. The starting aniline was obtained from the corresponding nitro compound by reduction with hydrogen under the influence of Raney nickel as a catalyst, ethyl acetate being used as a solvent. 1-Nitro-4-dl-methyloxycarbonylbenzene was prepared by reaction of dl-menthol with 4-nitrobenzoylchloride.

reactant | dl-menthol | CC1CCC(C(C1)O)C(C)C | C10H20O
reactant | 4-nitrobenzoylchloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyloxycarbonylbenzene | COC(=O)C1=CC=CC=C1 | C8H8O2
